US05498630
To a solution of pyrazole (1.7 g, 25 mmol) and 4 mL triethylamine in 50 mL dry THF was added ethyl isocyanate (2 g, 28 mmol) at 0° C. and the resulting reaction solution was stirred at RT for 18 h. Ethyl acetate and 2N HCl were added. The aq layer was separated and extracted with ethyl acetate. The combined ethyl acetate layers were washed with brine, dried and concentrated in vacuo to give an oil. The oil was triturated with cold hexane to give 2.5 g of N-ethyl-1H-pyrazole-1-carboxamide as a white solid.

reactant | pyrazole | 25 mmol, 1.7 g | N1N=CC=C1 | C3H4N2
reactant | triethylamine | 4 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl isocyanate | 28 mmol, 2 g | C(C)N=C=O | C3H5NO
reactant | HCl | 2N | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-ethyl-1H-pyrazole-1-carboxamide | 2.5 g | C(C)NC(=O)N1N=CC=C1 | C6H9N3O
